US08207178B2
In some embodiments, condensation of 2,6-diamino-1,2-dihydro[3H]pyrimidin-4-one with chloroacetaldehyde, followed by treatment with phosphorus oxychloride and amine protection with benzyl bromide provides 7-benzyl-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-amine. In some embodiments, this is coupled with optionally substituted (R1, R2, R3, R4) para-bromo phenol or thiol (T=O, S) or para-bromoaniline (T=NH). In some embodiments, conversion of amine to fluoro is achieved by treatment with HF-pyridine, and then coupled with para-V-aniline. In some embodiments, benzyl deprotection is achieved by treatment with aluminum chloride to give the desired compound.

reactant | 2,6-diamino-1,2-dihydro[3H]pyrimidin-4-one | NC1NC(=CC(N1)=O)N | C4H8N4O
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 7-benzyl-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-amine | C(C1=CC=CC=C1)N1C=CC2=C1N=C(N=C2Cl)N | C13H11ClN4
